US06693123B2
[4-(3-Pyridyloxymethyl)-2-phenylbenzoyl]methionine Isopropyl Ester
The desired compound was prepared by coupling of 4-(3-pyridyloxymethyl)-2-phenylbenzoic acid, prepared as in Example 228D with methionine isopropyl ester hydrochloride, prepared as in Example 229B using the procedure of Example 186C. 1H NMR (300 MHz, CD3OD) δ 8.70 (d, 1H), 8.46 (d, 1H), 8.31 (ddd, 1H), 8.01 (dd, 1H), 7.58 (m, 3H), 7.33-7.47 (m, 5H), 5.45 (s, 2H), 5.00 (heptet, 1H), 4.44 (m, 1H), 2.00-2.24 (m, 2H), 2.01 (s, 3H), 1.96 (m, 1H), 1.77 (m, 1H), 1.24 (d, 3H), 1.22 (d, 3H). MS (CI NH3) m/e 479 (M+H)+, 451, 419, 320, 288, 192. Anal calcd for C27H31ClN2O4S (+0.60 H2O): C, 61.67; H, 6.17; N, 5.33. Found: C, 61.67; H, 6.17; N, 5.33.

reactant | 4-(3-pyridyloxymethyl)-2-phenylbenzoic acid | N1=CC(=CC=C1)OCC1=CC(=C(C(=O)O)C=C1)C1=CC=CC=C1 | C19H15NO3
reactant | methionine isopropyl ester hydrochloride | Cl.C(C)(C)OC([C@@H](N)CCSC)=O
product | [4-(3-Pyridyloxymethyl)-2-phenylbenzoyl]methionine Isopropyl Ester | C(C)(C)OC([C@@H](NC(C1=C(C=C(C=C1)COC=1C=NC=CC1)C1=CC=CC=C1)=O)CCSC)=O | C27H30N2O4S
